* CMOS inverter, minimum area 0.5um
.include "D:\AUC\Uni\Fall 25\Microelectronics\Project\Saif and adham\CMOS 0.18\MOSFET_models_0p5_0p18-3.inc"
* supply sources
VDD no1 0 3.3V
VG no2 0 0
* MOSFETs
Mpmos no3 no2 no1 no1 PMOS0P5 l=0.5u w=1.25u ad=1.875p as=1.875p pd=5.5u ps=5.5u
Mnmos no3 no2 0 0 NMOS0P5 l=0.5u w=1.25u ad=1.875p as=1.875p pd=5.5u ps=5.5u
* Resistor and Capacitor
Rr1 no3 no4 1k
Cc1 no4 0 0.5p
.DC VG 0 3.3V 1m
.END
